Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Cipro
 
Attending: ___.
 
Chief Complaint:
Back pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ F with hx of osteoporosis, compression 
fractures, and prior hip fracture who presented to ___ with 
severe back pain on ___. Her pain started a few days 
prior to admission after she noted pain when trying to 
straighten her back. She is walker-dependent at baseline but has 
been trying to work out more at the gym recently. She had no 
recent fall or other trauma. X-ray revealed an acute T12 
compression fracture and was treated initially with pain meds. 
She was able to ambulate with pain but at times had severe ___ 
pain requiring hospitalization for pain control. She was 
discharged home with services, however her pain persisted and 
she did not tolerate pain meds (percocet) due to delirium. She 
was re-admitted to ___ after a few days. She was then seen by 
Neurosurgery but apparently refused to be examined and left AMA 
after 2 days. She returned again after a week with the same 
complaint. She received an epidural steroid injection by 
anesthesia with relief for only 2 hours, followed by subsequent 
recurrence of her severe pain. Neurosurgery then examined her 
and felt she would be a good candidate for kyphoplasty. She had 
a prior kyphoplasty ___ years ago with good response.  
Of note, she denies any recent fevers, chills, ___ weakness, 
decreased sensation, bowel/bladder incontinence, or any other 
worrisome symptoms. She did have recent urinary frequency with a 
positive u/a and u-culture for E. faecalis last week for which 
she is currently on po ampicillin.  
Also of note, her last BM was 3 days ago which is not unusual 
for her.  
She is now transferred to ___ to ___ with Ortho Spine consult 
for evaluation for kyphoplasty.  
Vitals prior to transfer were: afeb 81 16 149/66 100% RA  
 
On the floor, initial VS: 98.2 128/48 80 16 95%RA  

 
Past Medical History:
hyperlipidemia, back pain s/p kyphoplasty, hypertension, 
depression, degenerative joint disease, compression fracture, 
osteoporosis, cholecystectomy, left hip fracture  

 
Social History:
___
Family History:
Father: deceased ___ ___, Mi  
Mother: deceased ___ ___, Breast ca, diagnosed with Cancer  
Siblings: deceased, Sister ___ cancer, Brother unknown, 
diagnosed with Cancer  
Children: deceased, ___ passed away in his sleep  
Spouse: deceased ___ ___, Aneurysm  
Father: patient states father has died and (+) CAD.  
Mother: patient states mother has died and breast cancer.  
Sister: breast cancer.  
2 Sons ___  
1 Grandson, 1 Granddaughter Healthy.  

 
Physical Exam:
ADMISSION:
Vitals - 98.2 128/48 80 16 95%RA  
GENERAL: elderly female lying comfortably in bed, NAD. pleasant, 
interactive, appropriate  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
patent nares, MM dry with chapped lips. superior dentures in 
place. nontender supple neck. no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: moving all extremities well, no cyanosis, clubbing 
or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact. strength is full in ___ bilaterally in 
all muscle groups including HF. sensation intact in ___ 
throughout.  
SKIN: warm and well perfused, chapped lips as above, no rashes  
BACK: mild TTP over lower thoracic spine  
.
DISCHARGE:
Vitals - 98.2   ___    ___   18   98% RA
GENERAL: elderly female lying comfortably in bed, NAD. Sleeping 
but arousable
HEENT: AT/NC, EOMI, PERRL, MM dry with chapped lips. superior 
lip edematous, dentures in place, OP clear. 
NECK: supple
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: soft, nondistended, nontender, nl BS
EXTREMITIES:warm with no cyanosis, clubbing or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact. sensation intact bilateral ___. ___ 
strength bilateral ___ on hip flexion, knee flexion/extension, 
ankle dorsi/plantarflexion 
SKIN: no rash or jaundice 
BACK: mild TTP over lower thoracic spine  

 
Pertinent Results:
ADMISSION LABS:
___ 07:50AM BLOOD WBC-5.9 RBC-4.03*# Hgb-11.7*# Hct-35.2* 
MCV-87 MCH-29.0 MCHC-33.1 RDW-14.1 Plt ___
___ 07:50AM BLOOD ___ PTT-31.0 ___
___ 07:50AM BLOOD Glucose-84 UreaN-19 Creat-0.8 Na-143 
K-3.3 Cl-98 HCO3-34* AnGap-14
.
IMAGING:
___ HIP UNILAT MIN 2 VIEWS LEFT; PELVIS (AP ONLY):
LEFT FEMUR RADIOGRAPHS, AP VIEW OF THE PELVIS, THREE IMAGES:  
The patient is status post gamma nail and intramedullary rod 
placement due to an 
intertrochanteric fracture of the left femur.  Hardware appears 
in expected position without change in alignment or loosening.  
No acute periprosthetic fracture is identified.  An non-united 
less trochanter is again noted.  Degenerative changes within the 
bilateral hip joints are noted.  There is no pubic symphysis 
diastasis.  Degenerative changes of the lumbar spine are also 
seen and are better characterized on concurrent lumbar spine 
radiograph.  
IMPRESSION:  Expected unchanged position of left femoral 
fixation hardware.  No acute injury. 
.
___ T-SPINE; L-SPINE (AP & LAT):
IMPRESSION:  Severe osteopenia with loss of vertebral body 
heights at multiple levels including T5, T8, T12 and L4.  No 
clear fracture line or posterior fragments seen at T12.   Acuity 
fracture cannot be determined at any of these levels, and 
findings may also be due to progressive degenerative change or 
an old injury.  Correlation with any older imaging (before the 
___ study) may be informative as would correlation MRI of the 
spine or exam with direct pressure under fluoroscopy.  
.
___ MR THORACIC SPINE W/O CONTRAST:
IMPRESSION: 
1. Incomplete, motion degraded study. Within these confines: 
2. Multiple compression deformities involving the T8, T12, L1, 
L2 and L4 
vertebral bodies.  The STIR sequence is limited by motion, but 
there is 
increased STIR signal associated with the T8 compression 
deformity suggesting an acute fracture and possible mild 
increased STIR signal associated with the L1 compression 
deformity suggesting subacute to chronic fracture. No definite 
STIR hyperintensity is seen with regards to the other 
compression fractures, though not every acute fracture will 
generate signal intensity on IDEAL or STIR imaging. 
3. Multiple levels of lumbar spinal canal and neural foraminal 
narrowing 
caused by a combination of the compression deformities and 
degenerative 
disease. This is worst at L1-L2 where retropulsed fracture 
fragments and 
ligamentum flavum calcification or facet osteophyte caused 
remodeling of the conus medullaris. No definite abnormal cord 
signal is identified. A repeat examination should be considered 
for clinical decision making. 

 
Brief Hospital Course:
___ year old female with history of osteoporosis, left hip 
fracture, and prior compression fractures s/p kyphoplasty now 
presents with ongoing back pain due to multilevel compression 
fractures and evaluation for kyphoplasty.  

ACTIVE ISSUES
-------------
# Vertebral compression fractures: Atraumatic, likely secondary 
to osteoporosis given multiple prior osteoporotic compression 
fractures. Risk factors for osteoporosis include: sex, age, 
race, thin body habitus.  Never smoker, not on steroids or other 
medications that affect bone metabolism, no known 
thyroid/parathyroid disorders. No worrisome symptoms or 
neurological deficits. She was evaluated for possible 
kyphoplasty by the pain management team, but given her diffuse 
disease, was deemed to not be a candidate for kyphoplasty.  She 
was also evaluated by orthopedics spine team but given her age 
and lack of neurological symptoms, she is not a surgical 
candidate. Patient declined TLSO for comfort.  Per orthopedics 
spine, she is cleared to ambulate and participate in physical 
therapy.  She may follow up in spine clinic in ___ weeks for 
repeat imaging, or PRN if at baseline. Her pain was well 
controlled with 12 mcg fentanyl patch q72h, acetaminophen 1g q8h 
and PRN ibuprofen 400mg TID.  She was evaluated by physical 
therapy who recommended continued home physical therapy.  She 
declined bisphosphonate therapy.

# Urinary tract infection: Records not available, however per 
___ note from Dr. ___ reported urinary frequency and had 
urinalysis and urine culture last week in Dr. ___ 
which was positive for >100k E. faecalis, sensitive to 
ampicillin. She was placed on a 7 day course of ampicillin 250mg 
q8hr which started ___. We continued her course of ampicillin 
which would be completed on ___.

CHRONIC ISSUES
--------------  
# Hyperlipidemia: Continued home simvastatin. 
 
# Hypertension: Continued home furosemide.
.
TRANSITIONAL ISSUES:
- if her pain is not well controlled, she should call 
___ to make an appointment with Dr. ___ Dr. ___ 
in pain management and to make an appointment with Dr. ___ 
Dr. ___ in spine clinic for repeat imaging
- she may benefit from a TLSO brace
# Communication: Grandson ___ is HCP (lives in ___: 
___ 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ampicillin 250 mg PO Q8H 
2. Furosemide 20 mg PO DAILY 
3. Docusate Sodium 100 mg PO BID 
4. Simvastatin 20 mg PO QPM 

 
Discharge Medications:
1. Ampicillin 250 mg PO Q8H 
RX *ampicillin 250 mg 1 capsule(s) by mouth every 8 hours Disp 
#*7 Capsule Refills:*0
2. Docusate Sodium 100 mg PO BID 
3. Furosemide 20 mg PO DAILY 
4. Simvastatin 20 mg PO QPM 
5. Acetaminophen 1000 mg PO TID 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every eight (8) 
hours Disp #*180 Tablet Refills:*0
6. Fentanyl Patch 12 mcg/h TD Q72H 
RX *fentanyl 12 mcg/hour remove old patch and apply a new patch 
every 72 hours (3 days) Disp #*10 Patch Refills:*0
7. Ibuprofen 400 mg PO Q8H:PRN pain 
RX *ibuprofen 400 mg 1 tablet(s) by mouth every 8 hours Disp 
#*60 Tablet Refills:*0
8. Cyclobenzaprine 5 mg PO TID 
RX *cyclobenzaprine 5 mg 1 tablet(s) by mouth every 8 hours Disp 
#*30 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary: compression fractures of T spine and L spine
Secondary: left hip pain, hypertension, hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___,

___ was a pleasure taking care of you at ___ 
___. You were admitted for evaluation of your chronic 
back pain. An MRI showed several vertebral compression 
fractures.  You were seen by our pain management specialists who 
determined that a kyphoplasty would not be helpful.  You were 
also seen by our orthopedic spine surgeons who do not recommend 
surgery. A physical therapist worked with you and determined 
that you should continue physical therapy at home.  Please 
follow up with Dr. ___ at the appointment listed below.
If your pain is not adequately controlled, you can make an 
appointment to be seen by our pain management specialists by 
calling the number listed below.
 
Followup Instructions:
___